US05112851
e) 5,7-Difluoro-1-methylnaphthalene
2.5 g of 5,7-Difluoro-1-methyl-tetralol, 3.6 g of triphenylmethanol and 2.6 g of trifluoroacetic acid anhydride are refluxed for 5 hours in 16 ml of trifluoroacetic acid. The mixture is poured onto ice-water and extracted with dichloromethane. The organic phase is washed neutral with sodium bicarbonate solution, dried and concentrated. The oily crude product can be purified by chromatography over silica gel (eluant:hexane).

reactant | triphenylmethanol | 3.6 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | trifluoroacetic acid anhydride | 2.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | 16 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5,7-Difluoro-1-methylnaphthalene | FC1=C2C=CC=C(C2=CC(=C1)F)C | C11H8F2
